US05200513
To synthesize methyl cis-3,5-dihydroxy-5-(trimethylsilylethynyl)cyclohex-1-ene-1-carboxylate, m-anisic acid is subject to the Birch reduction with lithium in ammonia to produce 5-oxocyclohex-2-ene-1-carboxylic acid, followed by methylation of thusproduced cyclohex-2-ene-1-carboxylic acid to methyl 5-oxocyclohex-2-ene-1-carboxylate with diazomethane, trimethylsilyl-ethynylation of thus-produced cyclohex-2-ene-1-carboxylate with cerium dichloride trimethylsilylacetylene to produce methyl cis-5-hydroxy-5-(trimethylsilylethynyl)cyclohex-2-ene-1-carboxylate, conversion to an epoxide and opening of the resulting epoxide ring to produce the cis-3,5-dihydroxy compound.

reactant | m-anisic acid | C(C1=CC(=CC=C1)OC)(=O)O | C8H8O3
reactant | lithium | [Li] | Li
solvent | ammonia | N | H3N
product | 5-oxocyclohex-2-ene-1-carboxylic acid | O=C1CC=CC(C1)C(=O)O | C7H8O3
